US08563760B2
(17Z,20Z,23Z,26Z)-12-(Phenylsulfonyl)dotriaconta-17,20,23,26-tetraen-1-ol
Tetrabutylammonium fluoride (1 M solution in THF, 0.764 mL, 0.764 mmol) was added drop wise to a stirred solution of tert-butyldiphenyl((17Z,20Z,23Z,26Z)-12-(phenylsulfonyl)dotriaconta-17,20,23,26-tetra-enyloxy)silane (0.16 g, 0.191 mmol) in dry THF (2 mL) and stirring was continued for 1 h. Upon completion of reaction as judged y TLC, water (3 mL) was added and the reaction mixture was extracted with ethyl acetate (3×15 mL). The combined organic extracts were washed with brine, dried over MgSO4, filtered and concentrated. The crude was purified by silica gel column chromatography using 30% ethyl acetate/hexane to afford the title product as a clear oil (0.075 g, 66%). 1H NMR (CDCl3): δ7.88 (d, 2H, J=7.2 Hz), 7.57 (m, 3H), 5.38 (m, 8H), 3.65 (br s, 2H), 2.81 (m, 7H), 2.05 (m, 4H), 1.81 (m, 2H), 1.37-1.20 (m, 30H), 1.04 (t, 3H, J=6.9 Hz). m/z (APCI) 599.45 (M++1).

reactant | Tetrabutylammonium fluoride | 0.764 mmol, 1 M, 0.764 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | tert-butyldiphenyl((17Z,20Z,23Z,26Z)-12-(phenylsulfonyl)dotriaconta-17,20,23,26-tetra-enyloxy)silane | 0.191 mmol, 0.16 g | C(C)(C)(C)[Si](OCCCCCCCCCCCC(CCCC\C=C/C\C=C/C\C=C/C\C=C/CCCCC)S(=O)(=O)C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C54H80O3SSi
reactant | water | 3 mL | O | H2O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | (17Z,20Z,23Z,26Z)-12-(Phenylsulfonyl)dotriaconta-17,20,23,26-tetraen-1-ol | 0.075 g, 66% | C1(=CC=CC=C1)S(=O)(=O)C(CCCCCCCCCCCO)CCCC\C=C/C\C=C/C\C=C/C\C=C/CCCCC | C38H62O3S
